* Auto-generated by spice_v2/generate_spice_dataset.py
* sample_id=1 cell=NAND2 corner=typical
.title NAND2 seed characterization sample 1
.option method=gear reltol=1e-4 abstol=1e-12 vntol=1e-6
.temp 98.769
.include "/Users/jiaqing/new_paper/gf180mcu-pdk/libraries/gf180mcu_fd_pr/latest/models/ngspice/design.ngspice"
.lib "/Users/jiaqing/new_paper/gf180mcu-pdk/libraries/gf180mcu_fd_pr/latest/models/ngspice/sm141064.ngspice" typical

VDD vdd 0 0.819401
Vin in 0 PULSE(0 0.819401 1n 3.079061e-10 3.079061e-10 8n 16n)

Xn1 out in nmid 0 nmos_3p3 W=2.27006u L=0.28u
Xn2 nmid in 0 0 nmos_3p3 W=2.27006u L=0.28u
Xp1 out in vdd vdd pmos_3p3 W=6.38456u L=0.28u
Xp2 out in vdd vdd pmos_3p3 W=6.38456u L=0.28u

Cload out 0 1.203246e-14

.tran 2p 4.000000e-08
.measure tran tphl TRIG v(in) VAL=0.4097 RISE=1 TARG v(out) VAL=0.4097 FALL=1
.measure tran tplh TRIG v(in) VAL=0.4097 FALL=1 TARG v(out) VAL=0.4097 RISE=1
.measure tran i_vdd_avg AVG i(VDD) FROM=2n TO=32n
.measure tran power_avg_uW PARAM='-0.819401*i_vdd_avg*1e6'
.end
